US08835431B2
a. Cyclohexanecarboxylic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide (Intermediate 34a)
To a solution of 5-fluoro-2-hydrazinyl-pyridine (for reference procedure see WO 2010 022076, which is incorporated herein by reference in its entirety; 1.00 g, 7.87 mmol), cyclohexane carboxylic acid (1.21 g, 9.44 mmol), and HOBt.H2O (166 mg, 0.787 mmol) at 0° C. under N2 was added EDC (1.81 g, 9.44 mmol), then the mixture stirred at 0° C. for 15 min, and at RT for 17 h. Water was added, then the organics isolated, cooled to 0° C., then the resulting suspension filtered to leave the title compound as a white solid (1.16 g, 62%). 1H NMR (400 MHz, CDCl3): 1.21-1.38 (3H, m), 1.45-1.55 (2H, m), 1.66-1.73 (1H, m), 1.80-1.96 (4H, m), 2.22 (1H, tt, J 11.6, 3.5 Hz), 6.62-6.66 (2H, m), 7.29 (1H, ddd, J 9.2, 7.9, 3.1 Hz), 7.55 (1H, d, J=4.2 Hz), 8.03 (1H, d, J=2.9 Hz).

reactant | 5-fluoro-2-hydrazinyl-pyridine | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | cyclohexane carboxylic acid | 9.44 mmol, 1.21 g | C1(CCCCC1)C(=O)O | C7H12O2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 9.44 mmol, 1.81 g
solvent | Water | O | H2O
solvent | H2O | 0.787 mmol, 166 mg | O | H2O
product | Cyclohexanecarboxylic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide | 1.16 g, 62% | FC=1C=CC(=NC1)NNC(=O)C1CCCCC1 | C12H16FN3O
